* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT mux21 VSS VDD Y S0 A1 A0
** N=12 EP=6 IP=0 FDC=12
M0 VSS S0 7 VSS nmos L=1.4e-07 W=3.5e-07 $X=850 $Y=1610 $D=19
M1 8 S0 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=1445 $Y=1190 $D=19
M2 9 A1 8 VSS nmos L=1.4e-07 W=7.7e-07 $X=1865 $Y=1190 $D=19
M3 10 A0 9 VSS nmos L=1.4e-07 W=7.7e-07 $X=2425 $Y=1190 $D=19
M4 VSS 7 10 VSS nmos L=1.4e-07 W=7.7e-07 $X=2845 $Y=1190 $D=19
M5 Y 9 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=3405 $Y=1190 $D=19
M6 VDD S0 7 VDD pmos L=1.4e-07 W=7.7e-07 $X=850 $Y=5670 $D=25
M7 11 S0 VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=1445 $Y=5670 $D=25
M8 9 A0 11 VDD pmos L=1.4e-07 W=1.54e-06 $X=1865 $Y=5670 $D=25
M9 12 A1 9 VDD pmos L=1.4e-07 W=1.54e-06 $X=2425 $Y=5670 $D=25
M10 VDD 7 12 VDD pmos L=1.4e-07 W=1.54e-06 $X=2845 $Y=5670 $D=25
M11 Y 9 VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=3405 $Y=5670 $D=25
.ENDS
***************************************
.SUBCKT dffr VDD VSS Q D R CLK
** N=23 EP=6 IP=0 FDC=34
M0 7 12 VSS VSS nmos L=1.4e-07 W=1.19e-06 $X=705 $Y=1470 $D=19
M1 8 D 7 VSS nmos L=1.4e-07 W=1.19e-06 $X=1125 $Y=1470 $D=19
M2 9 10 8 VSS nmos L=1.4e-07 W=3.5e-07 $X=1720 $Y=2310 $D=19
M3 VSS 13 9 VSS nmos L=1.4e-07 W=3.5e-07 $X=2140 $Y=2310 $D=19
M4 10 8 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=2735 $Y=1890 $D=19
M5 VSS R 10 VSS nmos L=1.4e-07 W=7.7e-07 $X=3295 $Y=1890 $D=19
M6 11 10 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=3890 $Y=2310 $D=19
M7 VSS CLK 12 VSS nmos L=1.4e-07 W=7.7e-07 $X=5395 $Y=2310 $D=19
M8 13 12 VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=5955 $Y=2310 $D=19
M9 15 12 14 VSS nmos L=1.4e-07 W=3.5e-07 $X=7460 $Y=2625 $D=19
M10 16 11 15 VSS nmos L=1.4e-07 W=1.19e-06 $X=8055 $Y=1785 $D=19
M11 VSS 13 16 VSS nmos L=1.4e-07 W=1.19e-06 $X=8475 $Y=1785 $D=19
M12 14 17 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=9070 $Y=1785 $D=19
M13 VSS R 14 VSS nmos L=1.4e-07 W=3.5e-07 $X=9630 $Y=1785 $D=19
M14 17 15 VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=10190 $Y=1785 $D=19
M15 VSS 15 QB VSS nmos L=1.4e-07 W=7.7e-07 $X=11345 $Y=1330 $D=19
M16 Q QB VSS VSS nmos L=1.4e-07 W=7.7e-07 $X=11905 $Y=1330 $D=19
M17 19 13 VDD VDD pmos L=1.4e-07 W=2.24e-06 $X=705 $Y=4830 $D=25
M18 8 D 19 VDD pmos L=1.4e-07 W=2.24e-06 $X=1125 $Y=4830 $D=25
M19 20 10 8 VDD pmos L=1.4e-07 W=3.5e-07 $X=1720 $Y=6335 $D=25
M20 VDD 12 20 VDD pmos L=1.4e-07 W=3.5e-07 $X=2140 $Y=6335 $D=25
M21 21 8 VDD VDD pmos L=1.4e-07 W=1.05e-06 $X=2735 $Y=5635 $D=25
M22 10 R 21 VDD pmos L=1.4e-07 W=1.05e-06 $X=3155 $Y=5635 $D=25
M23 11 10 VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=4275 $Y=5915 $D=25
M24 VDD CLK 12 VDD pmos L=1.4e-07 W=1.54e-06 $X=5395 $Y=5180 $D=25
M25 13 12 VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=5955 $Y=5180 $D=25
M26 15 13 14 VDD pmos L=1.4e-07 W=3.5e-07 $X=7460 $Y=4830 $D=25
M27 22 11 15 VDD pmos L=1.4e-07 W=2.24e-06 $X=8055 $Y=4830 $D=25
M28 VDD 12 22 VDD pmos L=1.4e-07 W=2.24e-06 $X=8475 $Y=4830 $D=25
M29 23 17 VDD VDD pmos L=1.4e-07 W=3.5e-07 $X=9070 $Y=4830 $D=25
M30 14 R 23 VDD pmos L=1.4e-07 W=3.5e-07 $X=9490 $Y=4830 $D=25
M31 17 15 VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=10190 $Y=6300 $D=25
M32 VDD 15 QB VDD pmos L=1.4e-07 W=1.54e-06 $X=11345 $Y=5530 $D=25
M33 Q QB VDD VDD pmos L=1.4e-07 W=1.54e-06 $X=11905 $Y=5530 $D=25
.ENDS
***************************************
.SUBCKT ICV_1 1 2 3 4 5 6 7 8 9
** N=9 EP=9 IP=12 FDC=68
X0 2 1 6 3 4 5 dffr $T=0 0 0 0 $X=0 $Y=0
X1 2 1 9 7 8 5 dffr $T=12740 0 0 0 $X=12740 $Y=0
.ENDS
***************************************
.SUBCKT ICV_2 1 2 3 4 5 6 7 8 9
** N=9 EP=9 IP=12 FDC=24
X0 4 5 6 1 2 3 mux21 $T=0 0 0 0 $X=0 $Y=0
X1 4 5 9 1 7 8 mux21 $T=4410 0 0 0 $X=4410 $Y=0
.ENDS
***************************************
.SUBCKT inv01 VSS VDD Y A
** N=4 EP=4 IP=0 FDC=2
M0 Y A VSS VSS nmos L=1.4e-07 W=3.5e-07 $X=910 $Y=1820 $D=19
M1 Y A VDD VDD pmos L=1.4e-07 W=7.7e-07 $X=910 $Y=5600 $D=25
.ENDS
***************************************
.SUBCKT ICV_3 1 2 3 4 5 6 7 8 9
** N=9 EP=9 IP=12 FDC=68
X0 2 1 6 3 4 5 dffr $T=-12740 0 0 0 $X=-12740 $Y=0
X1 2 1 9 7 8 5 dffr $T=0 0 0 0 $X=0 $Y=0
.ENDS
***************************************
.SUBCKT nBitRegister_32 nBitIn[30] VSS VDD Y[15] Y[7] Y[30] WE nBitIn[4] nBitIn[24] Y[4] Y[24] nBitIn[28] Y[28] clk Y[27] nBitIn[15] nBitIn[7] nBitIn[8] Y[14] nBitIn[27]
+ Y[8] nBitIn[31] Y[31] Reset nBitIn[14] Y[23] nBitIn[5] nBitIn[23] Y[5] nBitIn[10] nBitIn[26] Y[10] Y[26] Y[2] Y[17] nBitIn[25] nBitIn[3] nBitIn[0] Y[25] Y[3]
+ Y[0] nBitIn[13] Y[11] nBitIn[11] Y[13] nBitIn[2] nBitIn[19] Y[19] Y[18] nBitIn[18] nBitIn[17] Y[6] Y[1] nBitIn[6] Y[22] Y[21] Y[12] Y[29] nBitIn[1] nBitIn[16]
+ Y[16] nBitIn[29] nBitIn[22] nBitIn[21] Y[9] nBitIn[12] Y[20] nBitIn[9] nBitIn[20]
** N=104 EP=69 IP=351 FDC=1478
X0 VSS VDD 14 WE nBitIn[4] Y[4] mux21 $T=20 -6115 0 0 $X=20 $Y=-6115
X1 VSS VDD 12 WE nBitIn[30] Y[30] mux21 $T=20 31625 0 0 $X=20 $Y=31625
X2 VSS VDD 22 WE nBitIn[15] Y[15] mux21 $T=17170 4025 1 180 $X=12760 $Y=4025
X3 VSS VDD 23 WE nBitIn[7] Y[7] mux21 $T=17170 13115 1 180 $X=12760 $Y=13115
X4 VSS VDD 33 WE nBitIn[31] Y[31] mux21 $T=17170 -6115 0 0 $X=17170 $Y=-6115
X5 VSS VDD 34 WE nBitIn[8] Y[8] mux21 $T=17170 4025 0 0 $X=17170 $Y=4025
X6 VSS VDD 35 WE nBitIn[27] Y[27] mux21 $T=17170 31625 0 0 $X=17170 $Y=31625
X7 VSS VDD 41 WE nBitIn[23] Y[23] mux21 $T=29910 22535 1 180 $X=25500 $Y=22535
X8 VSS VDD 52 WE nBitIn[10] Y[10] mux21 $T=29910 13115 0 0 $X=29910 $Y=13115
X9 VSS VDD 36 WE nBitIn[2] Y[2] mux21 $T=44610 4025 1 180 $X=40200 $Y=4025
X10 VSS VDD 37 WE nBitIn[17] Y[17] mux21 $T=56370 41225 1 180 $X=51960 $Y=41225
X11 VSS VDD 84 WE nBitIn[6] Y[6] mux21 $T=68620 4025 0 0 $X=68620 $Y=4025
X12 VSS VDD 78 WE nBitIn[1] Y[1] mux21 $T=85770 31625 1 180 $X=81360 $Y=31625
X13 VSS VDD 96 WE nBitIn[16] Y[16] mux21 $T=84300 -6115 0 0 $X=84300 $Y=-6115
X14 VSS VDD 85 WE nBitIn[29] Y[29] mux21 $T=90180 31625 1 180 $X=85770 $Y=31625
X15 VSS VDD 81 WE nBitIn[22] Y[22] mux21 $T=94590 31625 1 180 $X=90180 $Y=31625
X16 VSS VDD 82 WE nBitIn[21] Y[21] mux21 $T=96060 41225 1 180 $X=91650 $Y=41225
X17 VSS VDD 86 WE nBitIn[12] Y[12] mux21 $T=96550 -6115 1 180 $X=92140 $Y=-6115
X18 VSS VDD 89 WE nBitIn[9] Y[9] mux21 $T=98510 22535 1 180 $X=94100 $Y=22535
X19 VSS VDD 94 WE nBitIn[20] Y[20] mux21 $T=100470 31625 1 180 $X=96060 $Y=31625
X20 VDD VSS Y[15] 22 20 clk dffr $T=12760 4025 1 180 $X=20 $Y=4025
X21 VDD VSS Y[7] 23 21 clk dffr $T=12760 13115 1 180 $X=20 $Y=13115
X22 VDD VSS Y[4] 14 21 clk dffr $T=17170 -6115 1 180 $X=4430 $Y=-6115
X23 VDD VSS Y[24] 13 20 clk dffr $T=17170 31625 1 180 $X=4430 $Y=31625
X24 VDD VSS Y[28] 18 20 clk dffr $T=8840 41225 0 0 $X=8840 $Y=41225
X25 VDD VSS Y[14] 40 21 clk dffr $T=29910 13115 1 180 $X=17170 $Y=13115
X26 VDD VSS Y[2] 36 21 clk dffr $T=21580 4025 0 0 $X=21580 $Y=4025
X27 VDD VSS Y[17] 37 20 clk dffr $T=21580 31625 0 0 $X=21580 $Y=31625
X28 VDD VSS Y[31] 33 19 clk dffr $T=24030 -6115 0 0 $X=24030 $Y=-6115
X29 VDD VSS Y[5] 47 21 clk dffr $T=51960 41225 1 180 $X=39220 $Y=41225
X30 VDD VSS Y[3] 63 21 clk dffr $T=55880 31625 1 180 $X=43140 $Y=31625
X31 VDD VSS Y[19] 74 20 clk dffr $T=68130 4025 1 180 $X=55390 $Y=4025
X32 VDD VSS Y[11] 69 21 clk dffr $T=72540 13115 1 180 $X=59800 $Y=13115
X33 VDD VSS Y[6] 84 21 clk dffr $T=74990 -6115 1 180 $X=62250 $Y=-6115
X34 VSS VDD 78 21 clk Y[1] 54 20 Y[26] ICV_1 $T=55880 31625 0 0 $X=55880 $Y=31625
X35 VSS VDD 61 21 clk Y[0] 82 20 Y[21] ICV_1 $T=56370 41225 0 0 $X=56370 $Y=41225
X36 VSS VDD 81 20 clk Y[22] 89 21 Y[9] ICV_1 $T=68620 22535 0 0 $X=68620 $Y=22535
X37 VSS VDD 85 20 clk Y[29] 94 20 Y[20] ICV_1 $T=72540 13115 0 0 $X=72540 $Y=13115
X38 VSS VDD 86 21 clk Y[12] 96 20 Y[16] ICV_1 $T=73030 4025 0 0 $X=73030 $Y=4025
X39 WE nBitIn[24] Y[24] VSS VDD 13 nBitIn[28] Y[28] 18 ICV_2 $T=20 41225 0 0 $X=20 $Y=41225
X40 WE nBitIn[14] Y[14] VSS VDD 40 nBitIn[5] Y[5] 47 ICV_2 $T=21580 41225 0 0 $X=21580 $Y=41225
X41 WE nBitIn[26] Y[26] VSS VDD 54 nBitIn[0] Y[0] 61 ICV_2 $T=30400 41225 0 0 $X=30400 $Y=41225
X42 WE nBitIn[25] Y[25] VSS VDD 66 nBitIn[13] Y[13] 68 ICV_2 $T=34320 22535 0 0 $X=34320 $Y=22535
X43 WE nBitIn[3] Y[3] VSS VDD 63 nBitIn[11] Y[11] 69 ICV_2 $T=34320 31625 0 0 $X=34320 $Y=31625
X44 WE nBitIn[19] Y[19] VSS VDD 74 nBitIn[18] Y[18] 77 ICV_2 $T=46570 4025 0 0 $X=46570 $Y=4025
X45 VSS VDD 19 Reset inv01 $T=24030 -6115 1 180 $X=22070 $Y=-6115
X46 VSS VDD 21 Reset inv01 $T=40200 4025 1 180 $X=38240 $Y=4025
X47 VSS VDD 20 Reset inv01 $T=44610 4025 0 0 $X=44610 $Y=4025
X48 VSS VDD 35 20 clk Y[27] 12 19 Y[30] ICV_3 $T=12760 22535 1 180 $X=20 $Y=22535
X49 VSS VDD 68 21 clk Y[13] 52 21 Y[10] ICV_3 $T=47060 13115 1 180 $X=34320 $Y=13115
X50 VSS VDD 77 20 clk Y[18] 34 21 Y[8] ICV_3 $T=49510 -6115 1 180 $X=36770 $Y=-6115
X51 VSS VDD 66 20 clk Y[25] 41 20 Y[23] ICV_3 $T=55880 22535 1 180 $X=43140 $Y=22535
.ENDS
***************************************
